* inrush R=10.4
.model DBR D(IS=1e-9 N=1.8 RS=0.03)
VLINE ac 0 SIN(0 170 60 0 0 90)
RLIM ac a 10.4
D1 a  dcp DBR
D2 0  dcp DBR
D3 dcn 0  DBR
D4 dcn a  DBR
RESR dcp c 0.15
CBULK c dcn 560u IC=0
RB1 dcp 0 1meg
RB2 dcn 0 1meg
RLOAD dcp dcn 120
.options reltol=0.003 abstol=1e-6 vntol=1e-4
.tran 5u 30m 0 10u uic
.control
run
wrdata inrush_104.txt i(VLINE)
.endc
.end
