* irdrop trunk=0.5 m 14AWG round-trip, 12 A section
VSRC src 0 5.0
RT src sec 0.0083
* three panels, each: fuse+clips 7 mOhm, harness 0.4 m 18AWG round trip
RF1 sec f1 0.007
RH1 f1 p1 0.016800000000000002
IP1 p1 0 4
RF2 sec f2 0.007
RH2 f2 p2 0.016800000000000002
IP2 p2 0 4
RF3 sec f3 0.007
RH3 f3 p3 0.016800000000000002
IP3 p3 0 4
.dc VSRC 5.0 5.35 0.025
.control
run
wrdata ir_5.txt v(p1)
.endc
.end
