* term Rs=0.1
VDRV drv 0 PULSE(0 5 2n 1.5n 1.5n 18n 40n)
RDRV drv b 18
RS   b   l0 0.1
L1 l0 l1 25n
C1 l1 0 2.5p
L2 l1 l2 25n
C2 l2 0 2.5p
L3 l2 l3 25n
C3 l3 0 2.5p
L4 l3 l4 25n
C4 l4 0 2.5p
L5 l4 l5 25n
C5 l5 0 2.5p
L6 l5 lo 25n
CL lo 0 18p
.tran 0.05n 85n
.control
run
wrdata term_0.txt v(lo)
.endc
.end
